US04088771
β-methylamino-β-(3-methylphenyl)-ethylamine;
m.p. dihydrochloride 202°-205° C; β-n-butylamino-β-(4-ethoxyphenyl)-ethylamine;

reactant | dihydrochloride | C1(=C(C(=C(C(=C1F)F)F)N)F)N.Cl.Cl
reactant | β-n-butylamino-β-(4-ethoxyphenyl)-ethylamine | C(CCC)NC(CN)C1=CC=C(C=C1)OCC | C14H24N2O
product | β-methylamino-β-(3-methylphenyl)-ethylamine | CNC(CN)C1=CC(=CC=C1)C | C10H16N2
